US04410539
A solution of n-butyl lithium (15 ml. of 1.0 M solution in hexane) was added dropwise to a stirred solution of 3-bromo-6-methylbenzo[b]thiophene (3.0 g.) in dry ether (40 ml.) at -70° C. under an atmosphere of dry nitrogen. The mixture was stirred at -70° C. for 30 minutes and then an excess of crushed solid carbon dioxide was added. When all the carbon dioxide had evaporated, water (25 ml.) was added and the mixture was stirred for a few minutes. The organic layer was separated and washed with 2 N.NaOH solution. The aqueous layer and NaOH extract were combined and acidified with concentrated hydrochloric acid. The solid was filtered off, washed with water, dried and crystallized from toluene to give 6-methylbenzo[b]thiophene-3-carboxylic acid (1.60 g.), m.p. 205°-209°.

reactant | n-butyl lithium | 1.0 M, 15 ml | C(CCC)[Li]
reactant | 3-bromo-6-methylbenzo[b]thiophene | 3.0 g | BrC=1C2=C(SC1)C=C(C=C2)C | C9H7BrS
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ether | 40 ml | CCOCC | C4H10O
product | 6-methylbenzo[b]thiophene-3-carboxylic acid | 1.60 g | CC=1C=CC2=C(SC=C2C(=O)O)C1 | C10H8O2S
